US07960394B2
2-{4-[(1-Cyclobutylpiperidin-4-yl)oxy]phenyl}-3,8-dimethylpyrido[4,3-d]pyrimidin-4(3H)-one
The entitled compound was obtained according to the method of Example 15 but starting from 4-amino-5-methylnicotinic acid, methylamine and 4-[(1-cyclobutylpiperidin-4-yl)oxy]-2-methoxybenzaldehyde.

reactant | 4-amino-5-methylnicotinic acid | NC1=C(C=NC=C1C(=O)O)C | C7H8N2O2
reactant | methylamine | CN | CH5N
reactant | 4-[(1-cyclobutylpiperidin-4-yl)oxy]-2-methoxybenzaldehyde | C1(CCC1)N1CCC(CC1)OC1=CC(=C(C=O)C=C1)OC | C17H23NO3
product | 2-{4-[(1-Cyclobutylpiperidin-4-yl)oxy]phenyl}-3,8-dimethylpyrido[4,3-d]pyrimidin-4(3H)-one | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)C=1N(C(C2=C(N1)C(=CN=C2)C)=O)C | C24H28N4O2
